US08466199B2
The reaction of methyl 5-acetyl-2-hydroxyl-benzoate and allyl bromide in 2-butanone in the presence of potassium carbonate was performed as described in Example 2 to give 5-Acetyl-2-allyloxy-benzoic acid as white powder. 1H-NMR (400 MHz, d6-DMSO): 12.94 (s, —CO2H); 8.21 (m, 1 arom. H); 8.06 (m, 1 arom. H); 7.20 (m, 1 arom. H); 6.02 (m, —CH═CH2); 5.50, 5.28 (2 d-like, CH═CH2); 4.73 (d-like, CH2—CH═CH2); 2.53 (s, CH3C═O). 13C-NMR (100 MHz, d6-DMSO): 195.91 (CH3C═O); 166.71 (C(OH)═O); 160.44; 133.22; 132.76; 131.12; 129.11; 121.46; 117.30; 113.35; 69.81; 26.42.

reactant | methyl 5-acetyl-2-hydroxyl-benzoate | C(C)(=O)C=1C=CC(=C(C(=O)OC)C1)O | C10H10O4
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 5-Acetyl-2-allyloxy-benzoic acid | C(C)(=O)C=1C=CC(=C(C(=O)O)C1)OCC=C | C12H12O4
